***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD18534Q5A
* Date: 12/06/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS389 - October 2012
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18534Q5A   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.2151E-09	)
+(	0.5	2.2169E-09	)
+(	1	2.2144E-09	)
+(	1.5	2.2095E-09	)
+(	2	2.2051E-09	)
+(	2.5	2.2022E-09	)
+(	3	2.199E-09	)
+(	3.5	2.1968E-09	)
+(	4	2.194E-09	)
+(	4.5	2.193E-09	)
+(	5	2.1919E-09	)
+(	5.5	2.1915E-09	)
+(	6	2.191E-09	)
+(	6.5	2.1905E-09	)
+(	7	2.191E-09	)
+(	7.5	2.1936E-09	)
+(	8	2.1955E-09	)
+(	8.5	2.1976E-09	)
+(	9	2.21452E-09	)
+(	9.5	2.26193E-09	)
+(	10	2.26038E-09	)
+(	10.5	2.25856E-09	)
+(	11	2.25853E-09	)
+(	11.5	2.25737E-09	)
+(	12	2.2571E-09	)
+(	12.5	2.25575E-09	)
+(	13	2.25527E-09	)
+(	13.5	2.25478E-09	)
+(	14	2.25425E-09	)
+(	14.5	2.25369E-09	)
+(	15	2.2541E-09	)
+(	15.5	2.25349E-09	)
+(	16	2.25285E-09	)
+(	16.5	2.25219E-09	)
+(	17	2.25152E-09	)
+(	17.5	2.25183E-09	)
+(	18	2.25112E-09	)
+(	18.5	2.25041E-09	)
+(	19	2.24969E-09	)
+(	19.5	2.24995E-09	)
+(	20	2.24921E-09	)
+(	20.5	2.24845E-09	)
+(	21	2.24769E-09	)
+(	21.5	2.24791E-09	)
+(	22	2.24713E-09	)
+(	22.5	2.24634E-09	)
+(	23	2.24555E-09	)
+(	23.5	2.24574E-09	)
+(	24	2.24494E-09	)
+(	24.5	2.24413E-09	)
+(	25	2.24331E-09	)
+(	25.5	2.24347E-09	)
+(	26	2.24264E-09	)
+(	26.5	2.2418E-09	)
+(	27	2.24095E-09	)
+(	27.5	2.2411E-09	)
+(	28	2.24024E-09	)
+(	28.5	2.23937E-09	)
+(	29	2.2395E-09	)
+(	29.5	2.23862E-09	)
+(	30	2.23773E-09	)
+(	30.5	2.23684E-09	)
+(	31	2.23695E-09	)
+(	31.5	2.23605E-09	)
+(	32	2.23514E-09	)
+(	32.5	2.23424E-09	)
+(	33	2.23433E-09	)
+(	33.5	2.23341E-09	)
+(	34	2.23249E-09	)
+(	34.5	2.23257E-09	)
+(	35	2.23164E-09	)
+(	35.5	2.23071E-09	)
+(	36	2.22977E-09	)
+(	36.5	2.22983E-09	)
+(	37	2.22889E-09	)
+(	37.5	2.22795E-09	)
+(	38	2.228E-09	)
+(	38.5	2.22704E-09	)
+(	39	2.22608E-09	)
+(	39.5	2.22513E-09	)
+(	40	2.22517E-09	)
+(	40.5	2.22421E-09	)
+(	41	2.22324E-09	)
+(	41.5	2.22326E-09	)
+(	42	2.22229E-09	)
+(	42.5	2.22132E-09	)
+(	43	2.22034E-09	)
+(	43.5	2.22036E-09	)
+(	44	2.21939E-09	)
+(	44.5	2.2184E-09	)
+(	45	2.21742E-09	)
+(	45.5	2.21744E-09	)
+(	46	2.21645E-09	)
+(	46.5	2.21546E-09	)
+(	47	2.21547E-09	)
+(	47.5	2.21447E-09	)
+(	48	2.21348E-09	)
+(	48.5	2.21248E-09	)
+(	49	2.21248E-09	)
+(	49.5	2.21149E-09	)
+(	50	2.21048E-09	)
+(	50.5	2.20948E-09	)
+(	51	2.20948E-09	)
+(	51.5	2.20848E-09	)
+(	52	2.20747E-09	)
+(	52.5	2.20746E-09	)
+(	53	2.20645E-09	)
+(	53.5	2.20544E-09	)
+(	54	2.20443E-09	)
+(	54.5	2.20442E-09	)
+(	55	2.20341E-09	)
+(	55.5	2.2024E-09	)
+(	56	2.20139E-09	)
+(	56.5	2.20138E-09	)
+(	57	2.20037E-09	)
+(	57.5	2.19937E-09	)
+(	58	2.19837E-09	)
+(	58.5	2.19737E-09	)
+(	59	2.19737E-09	)
+(	59.5	2.19636E-09	)
+(	60	2.19536E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
 + (	0	1.548E-10	)
 + (	0.5	1.438E-10	)
 + (	1	1.369E-10	)
 + (	1.5	1.293E-10	)
 + (	2	1.253E-10	)
 + (	2.5	1.215E-10	)
 + (	3	1.157E-10	)
 + (	3.5	1.123E-10	)
 + (	4	1.085E-10	)
 + (	4.5	1.047E-10	)
 + (	5	1.002E-10	)
 + (	5.5	9.723E-11	)
 + (	6	9.137E-11	)
 + (	6.5	8.666E-11	)
 + (	7	8.246E-11	)
 + (	7.5	7.829E-11	)
 + (	8	4.122E-11	)
 + (	8.5	2.463E-11	)
 + (	9	2.367E-11	)
 + (	9.5	2.307E-11	)
 + (	10	2.238E-11	)
 + (	10.5	2.191E-11	)
 + (	11	2.144E-11	)
 + (	11.5	2.094E-11	)
 + (	12	2.06E-11	)
 + (	12.5	2.025E-11	)
 + (	13	1.985E-11	)
 + (	13.5	1.95E-11	)
 + (	14	1.926E-11	)
 + (	14.5	1.901E-11	)
 + (	15	1.876E-11	)
 + (	15.5	1.839E-11	)
 + (	16	1.825E-11	)
 + (	16.5	1.796E-11	)
 + (	17	1.786E-11	)
 + (	17.5	1.759E-11	)
 + (	18	1.738E-11	)
 + (	18.5	1.729E-11	)
 + (	19	1.705E-11	)
 + (	19.5	1.677E-11	)
 + (	20	1.671E-11	)
 + (	20.5	1.658E-11	)
 + (	21	1.639E-11	)
 + (	21.5	1.628E-11	)
 + (	22	1.607E-11	)
 + (	22.5	1.591E-11	)
 + (	23	1.577E-11	)
 + (	23.5	1.57E-11	)
 + (	24	1.551E-11	)
 + (	24.5	1.54E-11	)
 + (	25	1.53E-11	)
 + (	25.5	1.517E-11	)
 + (	26	1.511E-11	)
 + (	26.5	1.501E-11	)
 + (	27	1.506E-11	)
 + (	27.5	1.485E-11	)
 + (	28	1.482E-11	)
 + (	28.5	1.468E-11	)
 + (	29	1.463E-11	)
 + (	29.5	1.46E-11	)
 + (	30	1.496E-11	)
 + (	30.5	1.481E-11	)
 + (	31	1.445E-11	)
 + (	31.5	1.427E-11	)
 + (	32	1.424E-11	)
 + (	32.5	1.417E-11	)
 + (	33	1.415E-11	)
 + (	33.5	1.407E-11	)
 + (	34	1.401E-11	)
 + (	34.5	1.412E-11	)
 + (	35	1.398E-11	)
 + (	35.5	1.391E-11	)
 + (	36	1.384E-11	)
 + (	36.5	1.392E-11	)
 + (	37	1.388E-11	)
 + (	37.5	1.381E-11	)
 + (	38	1.372E-11	)
 + (	38.5	1.381E-11	)
 + (	39	1.366E-11	)
 + (	39.5	1.369E-11	)
 + (	40	1.367E-11	)
 + (	40.5	1.36E-11	)
 + (	41	1.357E-11	)
 + (	41.5	1.359E-11	)
 + (	42	1.358E-11	)
 + (	42.5	1.353E-11	)
 + (	43	1.352E-11	)
 + (	43.5	1.346E-11	)
 + (	44	1.355E-11	)
 + (	44.5	1.348E-11	)
 + (	45	1.349E-11	)
 + (	45.5	1.349E-11	)
 + (	46	1.345E-11	)
 + (	46.5	1.345E-11	)
 + (	47	1.34E-11	)
 + (	47.5	1.337E-11	)
 + (	48	1.337E-11	)
 + (	48.5	1.34E-11	)
 + (	49	1.337E-11	)
 + (	49.5	1.334E-11	)
 + (	50	1.338E-11	)
 + (	50.5	1.336E-11	)
 + (	51	1.338E-11	)
 + (	51.5	1.34E-11	)
 + (	52	1.342E-11	)
 + (	52.5	1.338E-11	)
 + (	53	1.331E-11	)
 + (	53.5	1.334E-11	)
 + (	54	1.327E-11	)
 + (	54.5	1.331E-11	)
 + (	55	1.336E-11	)
 + (	55.5	1.332E-11	)
 + (	56	1.343E-11	)
 + (	56.5	1.334E-11	)
 + (	57	1.331E-11	)
 + (	57.5	1.329E-11	)
 + (	58	1.344E-11	)
 + (	58.5	1.344E-11	)
 + (	59	1.328E-11	)
 + (	59.5	1.337E-11	)
 + (	60	1.35E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
 + (	0	1.5742E-09	)
 + (	0.5	1.4372E-09	)
 + (	1	1.2941E-09	)
 + (	1.5	1.1987E-09	)
 + (	2	1.1217E-09	)
 + (	2.5	1.0565E-09	)
 + (	3	1.0033E-09	)
 + (	3.5	9.587E-10	)
 + (	4	9.175E-10	)
 + (	4.5	8.787E-10	)
 + (	5	8.427E-10	)
 + (	5.5	8.0907E-10	)
 + (	6	7.7403E-10	)
 + (	6.5	7.3834E-10	)
 + (	7	7.0674E-10	)
 + (	7.5	6.7471E-10	)
 + (	8	6.4108E-10	)
 + (	8.5	3.8297E-10	)
 + (	9	3.6613E-10	)
 + (	9.5	3.5233E-10	)
 + (	10	3.3862E-10	)
 + (	10.5	3.2669E-10	)
 + (	11	3.1586E-10	)
 + (	11.5	3.0656E-10	)
 + (	12	2.976E-10	)
 + (	12.5	2.8875E-10	)
 + (	13	2.8015E-10	)
 + (	13.5	2.728E-10	)
 + (	14	2.6444E-10	)
 + (	14.5	2.5859E-10	)
 + (	15	2.5214E-10	)
 + (	15.5	2.4601E-10	)
 + (	16	2.4005E-10	)
 + (	16.5	2.3484E-10	)
 + (	17	2.2914E-10	)
 + (	17.5	2.2491E-10	)
 + (	18	2.1972E-10	)
 + (	18.5	2.1551E-10	)
 + (	19	2.1135E-10	)
 + (	19.5	2.0783E-10	)
 + (	20	2.0369E-10	)
 + (	20.5	1.9942E-10	)
 + (	21	1.9671E-10	)
 + (	21.5	1.9272E-10	)
 + (	22	1.9063E-10	)
 + (	22.5	1.8739E-10	)
 + (	23	1.8503E-10	)
 + (	23.5	1.821E-10	)
 + (	24	1.7989E-10	)
 + (	24.5	1.767E-10	)
 + (	25	1.755E-10	)
 + (	25.5	1.7303E-10	)
 + (	26	1.7109E-10	)
 + (	26.5	1.6929E-10	)
 + (	27	1.6694E-10	)
 + (	27.5	1.6545E-10	)
 + (	28	1.6368E-10	)
 + (	28.5	1.6252E-10	)
 + (	29	1.6077E-10	)
 + (	29.5	1.595E-10	)
 + (	30	1.5764E-10	)
 + (	30.5	1.5669E-10	)
 + (	31	1.5555E-10	)
 + (	31.5	1.5443E-10	)
 + (	32	1.5306E-10	)
 + (	32.5	1.5183E-10	)
 + (	33	1.5115E-10	)
 + (	33.5	1.5023E-10	)
 + (	34	1.4929E-10	)
 + (	34.5	1.4808E-10	)
 + (	35	1.4742E-10	)
 + (	35.5	1.4649E-10	)
 + (	36	1.4536E-10	)
 + (	36.5	1.4478E-10	)
 + (	37	1.4392E-10	)
 + (	37.5	1.4349E-10	)
 + (	38	1.4248E-10	)
 + (	38.5	1.4189E-10	)
 + (	39	1.4104E-10	)
 + (	39.5	1.4071E-10	)
 + (	40	1.4003E-10	)
 + (	40.5	1.393E-10	)
 + (	41	1.3853E-10	)
 + (	41.5	1.3801E-10	)
 + (	42	1.3782E-10	)
 + (	42.5	1.3727E-10	)
 + (	43	1.3648E-10	)
 + (	43.5	1.3604E-10	)
 + (	44	1.3525E-10	)
 + (	44.5	1.3512E-10	)
 + (	45	1.3471E-10	)
 + (	45.5	1.3401E-10	)
 + (	46	1.3375E-10	)
 + (	46.5	1.3315E-10	)
 + (	47	1.331E-10	)
 + (	47.5	1.3263E-10	)
 + (	48	1.3223E-10	)
 + (	48.5	1.319E-10	)
 + (	49	1.3113E-10	)
 + (	49.5	1.3076E-10	)
 + (	50	1.3102E-10	)
 + (	50.5	1.3044E-10	)
 + (	51	1.3052E-10	)
 + (	51.5	1.301E-10	)
 + (	52	1.2958E-10	)
 + (	52.5	1.2912E-10	)
 + (	53	1.2879E-10	)
 + (	53.5	1.2856E-10	)
 + (	54	1.2813E-10	)
 + (	54.5	1.2799E-10	)
 + (	55	1.2764E-10	)
 + (	55.5	1.2738E-10	)
 + (	56	1.2747E-10	)
 + (	56.5	1.2716E-10	)
 + (	57	1.2679E-10	)
 + (	57.5	1.2741E-10	)
 + (	58	1.2706E-10	)
 + (	58.5	1.2686E-10	)
 + (	59	1.2662E-10	)
 + (	59.5	1.2633E-10	)
 + (	60	1.262E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD18534Q5A  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    7.00e-3  
 .PARAM  ptrc2    2.0e-5
 .PARAM  pwidthP  2.446666667
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	0.90e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {pwidthP/5.78866666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 10.0
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 6.25e-3
RDP   4  7	 {0.5e-4+0.5e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.205        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.85
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.25e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18	gamma=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=7.0e-12 N=1.06 RS=0.60e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18534Q5A
*$
*


