***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD18563Q5A
* Date: 09/24/2013
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS444 - JULY 2013
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
*$
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	5.122E-10	)
+	(	1	5.146E-10	)
+	(	2	5.101E-10	)
+	(	3	5.063E-10	)
+	(	4	5.034E-10	)
+	(	5	5.013E-10	)
+	(	6	5.0094E-10	)
+	(	7	5.0062E-10	)
+	(	8	5.1559E-10	)
+	(	9	5.4887E-10	)
+	(	10	5.483E-10	)
+	(	11	5.4731E-10	)
+	(	12	5.4717E-10	)
+	(	13	5.4594E-10	)
+	(	14	5.4565E-10	)
+	(	15	5.4532E-10	)
+	(	16	5.4495E-10	)
+	(	17	5.4455E-10	)
+	(	18	5.4414E-10	)
+	(	19	5.4373E-10	)
+	(	20	5.4333E-10	)
+	(	21	5.4294E-10	)
+	(	22	5.4256E-10	)
+	(	23	5.4216E-10	)
+	(	24	5.4175E-10	)
+	(	25	5.4133E-10	)
+	(	26	5.4189E-10	)
+	(	27	5.4143E-10	)
+	(	28	5.4094E-10	)
+	(	29	5.4042E-10	)
+	(	30	5.3986E-10	)
+	(	31	5.3924E-10	)
+	(	32	5.39567E-10	)
+	(	33	5.38839E-10	)
+	(	34	5.38062E-10	)
+	(	35	5.38249E-10	)
+	(	36	5.37404E-10	)
+	(	37	5.37538E-10	)
+	(	38	5.36653E-10	)
+	(	39	5.36753E-10	)
+	(	40	5.35843E-10	)
+	(	41	5.35923E-10	)
+	(	42	5.34996E-10	)
+	(	43	5.35062E-10	)
+	(	44	5.34122E-10	)
+	(	45	5.3418E-10	)
+	(	46	5.33232E-10	)
+	(	47	5.3328E-10	)
+	(	48	5.32326E-10	)
+	(	49	5.32368E-10	)
+	(	50	5.31409E-10	)
+	(	51	5.31444E-10	)
+	(	52	5.3048E-10	)
+	(	53	5.30515E-10	)
+	(	54	5.30547E-10	)
+	(	55	5.29576E-10	)
+	(	56	5.29604E-10	)
+	(	57	5.28631E-10	)
+	(	58	5.28656E-10	)
+	(	59	5.2768E-10	)
+	(	60	5.27702E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.488E-10	)
+	(	1	1.254E-10	)
+	(	2	1.169E-10	)
+	(	3	1.107E-10	)
+	(	4	1.046E-10	)
+	(	5	9.87E-11	)
+	(	6	9.306E-11	)
+	(	7	8.738E-11	)
+	(	8	6.241E-11	)
+	(	9	2.413E-11	)
+	(	10	2.27E-11	)
+	(	11	2.169E-11	)
+	(	12	2.083E-11	)
+	(	13	2.006E-11	)
+	(	14	1.935E-11	)
+	(	15	1.868E-11	)
+	(	16	1.805E-11	)
+	(	17	1.745E-11	)
+	(	18	1.686E-11	)
+	(	19	1.627E-11	)
+	(	20	1.567E-11	)
+	(	21	1.506E-11	)
+	(	22	1.444E-11	)
+	(	23	1.384E-11	)
+	(	24	1.325E-11	)
+	(	25	1.267E-11	)
+	(	26	1.211E-11	)
+	(	27	1.157E-11	)
+	(	28	1.106E-11	)
+	(	29	1.058E-11	)
+	(	30	1.014E-11	)
+	(	31	9.76E-12	)
+	(	32	9.433E-12	)
+	(	33	9.161E-12	)
+	(	34	8.938E-12	)
+	(	35	8.751E-12	)
+	(	36	8.596E-12	)
+	(	37	8.462E-12	)
+	(	38	8.347E-12	)
+	(	39	8.247E-12	)
+	(	40	8.157E-12	)
+	(	41	8.077E-12	)
+	(	42	8.004E-12	)
+	(	43	7.938E-12	)
+	(	44	7.878E-12	)
+	(	45	7.82E-12	)
+	(	46	7.768E-12	)
+	(	47	7.72E-12	)
+	(	48	7.674E-12	)
+	(	49	7.632E-12	)
+	(	50	7.591E-12	)
+	(	51	7.556E-12	)
+	(	52	7.52E-12	)
+	(	53	7.485E-12	)
+	(	54	7.453E-12	)
+	(	55	7.424E-12	)
+	(	56	7.396E-12	)
+	(	57	7.369E-12	)
+	(	58	7.344E-12	)
+	(	59	7.32E-12	)
+	(	60	7.298E-12	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	3.0602E-09	)
+	(	1	2.5096E-09	)
+	(	2	2.1571E-09	)
+	(	3	1.9323E-09	)
+	(	4	1.7674E-09	)
+	(	5	1.6353E-09	)
+	(	6	1.51894E-09	)
+	(	7	1.39462E-09	)
+	(	8	1.09259E-09	)
+	(	9	6.6037E-10	)
+	(	10	6.113E-10	)
+	(	11	5.7051E-10	)
+	(	12	5.3627E-10	)
+	(	13	5.0664E-10	)
+	(	14	4.8045E-10	)
+	(	15	4.5702E-10	)
+	(	16	4.3585E-10	)
+	(	17	4.1685E-10	)
+	(	18	3.9944E-10	)
+	(	19	3.8353E-10	)
+	(	20	3.6913E-10	)
+	(	21	3.5594E-10	)
+	(	22	3.4396E-10	)
+	(	23	3.3306E-10	)
+	(	24	3.2325E-10	)
+	(	25	3.1413E-10	)
+	(	26	3.0599E-10	)
+	(	27	2.9863E-10	)
+	(	28	2.9194E-10	)
+	(	29	2.8582E-10	)
+	(	30	2.8026E-10	)
+	(	31	2.7524E-10	)
+	(	32	2.70567E-10	)
+	(	33	2.66239E-10	)
+	(	34	2.62262E-10	)
+	(	35	2.58549E-10	)
+	(	36	2.55204E-10	)
+	(	37	2.52038E-10	)
+	(	38	2.49053E-10	)
+	(	39	2.46253E-10	)
+	(	40	2.43743E-10	)
+	(	41	2.41323E-10	)
+	(	42	2.38996E-10	)
+	(	43	2.36862E-10	)
+	(	44	2.34922E-10	)
+	(	45	2.3298E-10	)
+	(	46	2.31232E-10	)
+	(	47	2.2958E-10	)
+	(	48	2.27926E-10	)
+	(	49	2.26468E-10	)
+	(	50	2.25009E-10	)
+	(	51	2.23644E-10	)
+	(	52	2.2238E-10	)
+	(	53	2.21215E-10	)
+	(	54	2.20047E-10	)
+	(	55	2.18976E-10	)
+	(	56	2.18004E-10	)
+	(	57	2.17031E-10	)
+	(	58	2.16156E-10	)
+	(	59	2.1528E-10	)
+	(	60	2.14502E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD18563Q5A  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    11.00e-3  
 .PARAM  ptrc2    5.0e-5
 .PARAM  pwidthP  {4.02/2}
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
M2   10 12 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
*xcgs	5	8	1	3	cgs
cgs	5	8	0.54e-9
xcds	8	10	1	3	cds
DBD	3	1	DBD {4.02/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 1.5
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 2.05e-3
RDP   4  7	 {0.5e-4+1.17e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 550
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.28        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.95
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.32e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18	gamma	=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=4.0 BV=61
+ IS=7.0e-12 N=1.06 RS=0.65e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18563Q5A
*$
*


